US09403818B2
Preparation of tert-butyl 2-oxo-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,4-tetrahydroquinolin-3-ylcarbamate
Sodium acetate (20.7 mg, 0.252 mmol) and bis(pinacolato)diboron (32.0 mg, 0.126 mmol) were placed as solids in a flask under argon. tert-Butyl 7-bromo-1-hydroxy-2-oxo-1,2,3,4-tetrahydroquinolin-3-ylcarbamate (30 mg, 0.084 mmol) in DMSO (dry) (1 mL) was added and the mixture was degassed with argon. trans-Bis(triphenylphosphine)-palladium(II) dichloride (5.9 mg, 8.4 μmol) was added and the reaction mixture was heated at 40° C. for 2 h. After cooling the reaction mixture was concentrated and purified by flash silica column chromatography (heptane:ethyl acetate) (95:5 to 3:2) to afford the title compound as a white solid (13.5 mg, 41%).

reactant | Sodium acetate | 0.252 mmol, 20.7 mg | C(C)(=O)[O-].[Na+]
reactant | bis(pinacolato)diboron | 0.126 mmol, 32.0 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | tert-Butyl 7-bromo-1-hydroxy-2-oxo-1,2,3,4-tetrahydroquinolin-3-ylcarbamate | 0.084 mmol, 30 mg | BrC1=CC=C2CC(C(N(C2=C1)O)=O)NC(OC(C)(C)C)=O | C14H17BrN2O4
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | tert-butyl 2-oxo-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,4-tetrahydroquinolin-3-ylcarbamate | 13.5 mg, 41% | O=C1NC2=CC(=CC=C2CC1NC(OC(C)(C)C)=O)B1OC(C(O1)(C)C)(C)C | C20H29BN2O5
